US08604029B2
To a slurry of 2-methyl-nicotinic acid (10.2 g, 74.45 mmol) in THF (30 mL) chilled to −10° C. was added sodium hydride (60% in mineral oil; 3.89 g, 89.3 mmol) portionwise and the reaction mixture stirred till no further gas evolution was noticed. Ethyl chloroformate (6.0 mL, 74.45 mmol) was added slowly at the same temperature and stirring continued for another 1 h, whereby a thick white slurry developed. Simultaneously, in a separate vessel, diethyl malonate (11.9 mL, 74.45 mmol) was added dropwise to a slurry of sodium hydride (60% in mineral oil; 3.24 g, 74.45 mmol)) in THF (20 mL) at −10° C., stirred for 30 min and slowly added to the slurry of the mixed anhydride. The reaction mixture was allowed to warm to r.t. and stirred overnight. The pH was adjusted to ˜pH 6 with acetic acid and evaporated to dryness. The residue was partitioned between water and ethyl acetate, the organics separated, then washed with water, brine, dried over sodium sulfate, filtered and concentrated to yield 2-(2-methyl-pyridine-3-carbonyl)-malonic acid diethyl ester (18.16 g, 87%) as an oil.

reactant | 2-methyl-nicotinic acid | 74.45 mmol, 10.2 g | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | sodium hydride | 89.3 mmol, 3.89 g | [H-].[Na+]
reactant | Ethyl chloroformate | 74.45 mmol, 6.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | diethyl malonate | 74.45 mmol, 11.9 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 74.45 mmol, 3.24 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-methyl-pyridine-3-carbonyl)-malonic acid diethyl ester | 18.16 g, 87% | C(C)OC(C(C(=O)OCC)C(=O)C=1C(=NC=CC1)C)=O | C14H17NO5
